US08334236B2
(4) Production of methyl 1-(bromomethyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
10.71 g (49.0 mmol) of methyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate was dissolved in carbon tetrachloride (200 mL), and 8.64 g (49.0 mmol) of N-bromosuccinimide and 0.1 g of 1,2-azobis(2-methylpropionitrile) were added thereto. While the mixture was irradiated with light, the mixture was stirred for 4 hours. 3.0 g (17.0 mmol) of N-bromosuccinimide was further added to the mixture, and the resulting mixture was stirred for 3 hours while the mixture was irradiated with light. The reaction mixture was poured into water, and the mixture was extracted with chloroform. The organic phase was washed with water, dried, and concentrated. The residue was purified by column chromatography (ethyl acetate:chloroform=1:19), and thus 10.56 g (yield: 73%) of the title compound was obtained as colorless crystals.

reactant | methyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 49.0 mmol, 10.71 g | CN1C(C(=CC2=CC=CN=C12)C(=O)OC)=O | C11H10N2O3
reactant | N-bromosuccinimide | 49.0 mmol, 8.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 17.0 mmol, 3.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 1-(bromomethyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 10.56 g, yield: 73% | BrCN1C(C(=CC2=CC=CN=C12)C(=O)OC)=O | C11H9BrN2O3
